US07982071B2
To a solution of (1S,2R)-2-(hydroxymethyl)cyclohexanol (0.44 g, 3.85 mmol) and N,N-dimethylaminopyridine (DMAP) (0.485 g, 3.97 mmol) in anhydrous CH2Cl2 (10 mL) was added a solution of p-toluenesulfonyl chloride (0.767 g, 4.02 mmol) in anhydrous CH2Cl2 (5 mL) under argon at room temperature. The reaction mixture was stirred at room temperature for 22 hrs and triethylamine (0.5 mL) was added. The mixture was stirred for additional 100 min, concentrated under reduced pressure, water was added and the product was extracted with EtOAc twice. Combined organic layers were washed with, brine, concentrated under reduced pressure and purified by flash chromatography (20% to 70% EtOAc/hexanes gradient) to give ((1R,2S)-2-hydroxycyclohexyl)methyl 4-methylbenzenesulfonate as a colorless oil. Yield (0.732 g, 71%). 1H NMR (400 MHz, DMSO-d6) δ 7.72-7.76 (m, 2H), 7.42-7.47 (m, 2H), 4.60 (d, J=5.5 Hz, 1H), 4.12 (dd, J=3.1, 9.2 Hz, 1H), 3.90 (dd, J=7.2, 9.2 Hz, 1H), 3.00-3.10 (m, 1H), 2.40 (s, 3H), 1.73-1.80 (m, 1H), 1.46-1.65 (m, 3H), 1.34-1.42 (m, 1H), 0.85-1.16 (m, 4H).

reactant | (1S,2R)-2-(hydroxymethyl)cyclohexanol | 3.85 mmol, 0.44 g | OC[C@@H]1[C@H](CCCC1)O | C7H14O2
reactant | p-toluenesulfonyl chloride | 4.02 mmol, 0.767 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | ((1R,2S)-2-hydroxycyclohexyl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1[C@H](CCCC1)O | C14H20O4S
